US07393569B2
A mixture of 3-[(6-bromohexyloxy)methyl]-3-methyloxetane (84 g), ethyl 4-hydroxybenzoate (50 g), potassium carbonate (50 g) and dimethyl formamide (600 mL) was stirred at 90° C. for 4 hours. Water was added to the reaction mixture to terminate the reaction and, after extraction with ethyl acetate, the liquid extract was washed with an aqueous solution of 2N-sodium hydroxide and water successively, and the organic layer was dried over anhydrous magnesium sulfate. The residues obtained by distilling off the solvent were purified on silica gel chromatography (toluene/ethyl acetate=8/2), to obtain ethyl 4-[6-(2-methyloxetane-3-ylmetoxy)hexyloxy)benzoate (85 g).

reactant | 3-[(6-bromohexyloxy)methyl]-3-methyloxetane | 84 g | BrCCCCCCOCC1(COC1)C | C11H21BrO2
reactant | ethyl 4-hydroxybenzoate | 50 g | OC1=CC=C(C(=O)OCC)C=C1 | C9H10O3
reactant | potassium carbonate | 50 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl formamide | 600 mL | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | ethyl 4-[6-(2-methyloxetane-3-ylmetoxy)hexyloxy)benzoate | 85 g | CC1OCC1COCCCCCCOC1=CC=C(C(=O)OCC)C=C1 | C20H30O5
